US08071771B2
(1-Methyl-1,3-dihydro-2H-imidazo[4,5-c]pyridin-2-one
To a stirred suspension of 3-amino-4-methylaminopyridine [U.S. Pat. No. 5,371,086 (1993)] (190 mg, 1.54 mmol) in CH3CN (10 mL) was added triphosgene (458 mg, 1.54 mmol) portionwise. After 1 h, the mixture was concentrated in vacuo and the residue was converted to the free base by ion exchange chromatography on a SCX cartridge, eluting with 2 M NH3 in MeOH to give the title compound. MS: m/z=150 (M+1).

reactant | 3-amino-4-methylaminopyridine | NC=1C=NC=CC1NC | C6H9N3
reactant | triphosgene | 1.54 mmol, 458 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
solvent | CH3CN | 10 mL | CC#N | C2H3N
product | 1-Methyl-1,3-dihydro-2H-imidazo[4,5-c]pyridin-2-one | CN1C(NC=2C=NC=CC21)=O | C7H7N3O
